US04921863
4-{2-[4-(p-Fluorobenzoyl)piperidinyl]ethyl}quinazoline hydrochloride
2 g of 4-methylquinazoline was dissolved in 20 ml of ethanol. 3.4 g of 4-(p-fluorobenzoyl)piperidine hydrochloride and 1.9 ml of 37% formalin were added to the solution and the mixture was stirred at room temperature for three days. A white precipitate was recovered by filtration and washed with ethanol to obtain the intended product.

reactant | 4-methylquinazoline | 2 g | CC1=NC=NC2=CC=CC=C12 | C9H8N2
reactant | 4-(p-fluorobenzoyl)piperidine hydrochloride | 3.4 g | Cl.FC1=CC=C(C(=O)C2CCNCC2)C=C1
reactant | formalin | 1.9 ml | C=O | CH2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-{2-[4-(p-Fluorobenzoyl)piperidinyl]ethyl}quinazoline hydrochloride | Cl.FC1=CC=C(C(=O)C2CCN(CC2)CCC2=NC=NC3=CC=CC=C23)C=C1 | InChI=1S/C22H22FN3O.ClH/c23-18-7-5-16(6-8-18)22(27)17-9-12-26(13-10-17)14-11-21-19-3-1-2-4-20(19)24-15-25-21;/h1-8,15,17H,9-14H2;1H
